Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Wellbutrin
 
Attending: ___.
 
Chief Complaint:
"Can't function"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Per Dr. ___ (___) ___ Initial Psychiatry Consult note:
"Mr. ___ is a ___ year old man with a psychiatric
history of depression who was BIBA on a ___ from
psychiatric NP at ___, reporting worsening depressive symptoms 
and
recent suicidal ideation.

Patient reports he has been coping with multiple stressors
recently. One month ago he broke up with his ex-fiancé after a 
14
month relationship. His father suffered a stroke in ___ 
resulting
in right sided paralysis and inability to speak. His father 
lives
in ___ and his younger sister and brother (whom also live in
___ have been caring for his father. His sister has been
struggling with depressive symptoms in this time and has had
difficulty managing the care of her two children. Overall, the
past few moths have been "devastating" for his family. 

Patient reports he was diagnosed with depression ___ years ago and
has been on medication since. For the last 3 weeks symptoms have
gotten a lot worse. He has felt very "lonely, abandoned,
overwhelmed, incompetent" and has "been performing badly at
work", which caused "more anxiety". He further describes anxiety
symptoms as intermittent shortness of breath, trouble
concentrating, inability to sit still, and worrying thoughts.  
He
reports he has been waking up every day feeling like he is
"fighting" with the "weight of the world on [his] shoulders". 2
weeks ago and began "feeling like I want to die". He heard news
about a friend of a friend who committed suicide. This man also
went through a break up and then ended his life 1 month later. 
He
is unaware of the method. After learning about this, the patient
reports suicide "seemed like an easy way to end the pain". He
denies any plan, but then does say he figures the easiest way to
kill himself would be to hang himself. He reports feeling like
everything is coming to an end. He does report he has some hope
that things may get better and a protective factor for him is 
not
wanting to hurt his siblings, whom look up to him.

He reports 2 weeks ago he called his therapist (former couples
therapist for him and his ex-fiancé). They talked on phone for 1
hr, but he continued to feel depressed afterward. He went to his
psychiatric NP today who agreed with him that he needs to be 
seen
in the hospital."

Patient corroborated information obtained by Dr. ___. On
unit, he remarked he felt as though hospitalization felt "very
extreme" and was in "disbelief" that he was here. When asked 
what
made it "extreme" he gave the example of having a constant 
observer in the ___
and not being allowed to close door completely when using the
restroom. Felt as though it was "agitating" but notes that he
does feel more "safe" as he is not alone. Emphasized that SI has
occurred only once and that that was two weeks as well as that 
if
was going to hurt himself he wouldn't have sought out help. That
being said, he is "hopeful" that hospitalization can help him
establish an improved outpatient treatment plan. He feels as
though, given his recent stressors listed above, that his 
current
treatment was not working. Reports stress leading him to
"overeat," use pornography more compulsively (over past 2 weeks
reports watching for "hours" after work; denies change in type 
of
pornography he is viewing and is more perturbed by the amount 
his
consuming vs. the type), trying cannabis, and drinking daily (as
above, last drink >72 hours ago per patient).

At this time he endorses shame, guilt, hopelessness, impaired
memory and concentration leading to difficulty at work,
ruminating, insomnia. Denies SI, AVH, and symptoms concerning 
for
mania at this time.

Lastly, on ROS, c/o SOB at rest and on exertion. Has not told 
PCP
about this and denies ever having been diagnosed w/ asthma.
 
Past Medical History:
- Hypertension (not on meds, reports it resolved)
- Hypertriglyceridemia
- NKDA
 
Social History:
Per Dr. ___ note with additions:
-Born/Raised: born and raised in ___ grew up with mom, dad,
sister (older), brother (younger); came to US at age ___ for an
extension program and returned ___ years ago on asylum ___
political instability and being a religious minority. Mother
passed from illness when he was ___ y/o. Reports feeling
depressed and having difficulty w/ academics. Father was a
___ ___. Patient feels as though father treated
outsiders better than family. Says father lived a "double life"
e.g. patient discovered father had been watching pornography at
___ y/o and father was physically/emotionally abusive towards 
him
-Relationship status/Children: single, no children; recently
broke up w/ fiance (notes he ended the relationship)
-Primary Supports: family, though most are in ___ has friends
nearby and church community; has uncle in ___, ___ but 
notes
he has MDD/anxiety and patient would prefer not to involve him 
at
this time
-Housing: ___, rent an apartment, 2 roommates. Is not
particularly close w/ either roommate
-Education: bachelors degree (completed while in ___; had
previously attended college in ___ but did not finish ___
depression from loss of mother and political instability.)
-Employment/Income: currently employed as an ___
-Spiritual: ___, but says religion is of "so-so" 
importance
in his life
-Military History: ___
Family History:
- Psychiatric Diagnoses: sister w/ depression, suspects dad w/
depression, paternal uncle with anxiety/depression and potential
gambling addiction ("scratch tickets"), aunt who may have died 
by
suicide (died in a fire under suspicious circumstances per
patient)
- Substance Use Disorders: Denies
- Suicide Attempts/Completed Suicides: Denies
 
Physical Exam:
-HEENT: Normocephalic, atraumatic. Moist mucous membranes,
oropharynx clear.

-Cardiovascular: Regular rate and rhythm, normal S1,S2, no
murmurs/rubs/gallops.

-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally. No wheezes/rhonchi/rales.

-Abdominal: Normoactive bowel sounds. Abdomen soft, nontender,
nondistended. No guarding, no rebound tenderness.

-Extremities: Warm and well-perfused.  No edema of the limbs.

-Skin: No bruising, rashes or lesions noted

Neurological:

-Cranial Nerves:
---I: Olfaction not tested.
---II: pupils 3mm, equal, round, reactive to light
---III, IV, VI: extraocular movements intact
---V: Masseter ___ bilaterally, sensation intact bilaterally
---VII: nasolabial folds symmetric bilaterally
---VIII: Hearing intact to conversation
---IX, X: Palate elevates symmetrically
---XI:  trapezii ___ symmetric bilaterally
---XII: Tongue protrudes midline
-Motor: Normal bulk and tone bilaterally. Strength ___ in
deltoids, biceps, triceps.

-Sensory: deferred

-Gait: narrow based, normal initiation, arm swing

Absence of resting tremor,
Absence of rigidity or spasticity
Absence of asterixis

 

Cognition:
-Wakefulness/alertness: Awake and alert
-Attention: ___ backwards with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___
grossly intact
-Fund of knowledge: Consistent with education; intact to last 4
presidents
-Calculations: $1.75 = "7" quarters
-Abstraction: apple+orange="round" watch+ruler="measurement"
bike+train="transportation"
-Visuospatial: Not assessed
-Language: ___ speaker, no paraphasic errors,
appropriate to conversation

 

Mental Status:
-Appearance: Young, slightly overweight man appearing stated 
age,
well groomed, unshaved, wearing hospital gown, in no apparent
distress
-Behavior: Sitting in chair, appropriate eye contact, no
psychomotor agitation or retardation
-Attitude: Cooperative, engaged
-Mood: predominantly "hopeful" "safe"
-Affect: full/broad, euthymic, mostly mood-congruent although 
did
appear to discuss sad themes while appearing euthymic
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be responding to
internal stimuli
-Insight/Judgment: limited, given he feels hospitalization is
"very extreme" despite recent Hx of SI
 
Pertinent Results:
___ 05:50PM   %HbA1c-5.9 eAG-123
___ 05:50PM   TRIGLYCER-1068* HDL CHOL-20* CHOL/HDL-9.5 
___
___ 05:50PM   CHOLEST-190
___ 05:50PM   TSH-1.8
___ 04:12PM   WBC-2.6* RBC-4.91 HGB-14.6 HCT-42.5 MCV-87 
MCH-29.7 MCHC-34.4 RDW-13.5 RDWSD-41.8
___ 12:57PM BLOOD WBC-3.6* RBC-5.35 Hgb-15.1 Hct-46.0 
MCV-86 MCH-28.2 MCHC-32.8 RDW-13.2 RDWSD-40.6 Plt ___
___ 04:12PM BLOOD Glucose-100 UreaN-16 Creat-1.2 Na-143 
K-5.0 Cl-104 HCO3-26 AnGap-___. LEGAL & SAFETY: 

On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. He was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

 

2. PSYCHIATRIC:

#Major depressive disorder, recurrent, severe
Patient describes 3 week history of worsening depressive 
symptoms as well as symptoms of anxiety and in the past 2 weeks, 
he has been experiencing suicidal thoughts, with idea to hang 
himself, though no intent or concrete plan. This is in the 
setting of multiple psychosocial stressors and increased 
substance use (EtOH, nicotine, cannabis, pornography). 
Collateral also significant for recent disengagement from 
treatment (with both his psych NP and therapist). On exam in ___, 
patient had a constricted affect, appearing down, with linear 
and organized thought process and no significant findings on 
cognitive exam. Patient's affect on initial inpatient assessment 
was more full/broad and euthymic; however, that may have been 
___ his hopefulness about getting treatment. He continues to 
want to seek help for treating his depression and anxiety. His 
presentation was most consistent with major depressive disorder, 
recurrent, severe. He was continued on his home escitalopram 
regimen of 15 mg PO daily as he wanted to primarily focus on 
utilizing therapy and learning coping skills to better manage 
his depression. Patient met with Social Work who helped patient 
arrange starting a partial hospitalization program next ___ 
___. Patient is scheduled to follow up with his psychiatric NP 
on ___ to discuss medication adjustments as well as 
his hospitalization. On discharge, patient was onboard and 
hopeful about plan. His affect was broad, euthymic, and 
congruent. He also noted improved sleep noting that he did not 
require a sleep aide the night before discharge. He also noted 
improved energy as he did not feel a need to drink coffee the 
morning of discharge.

3. SUBSTANCE USE DISORDERS:

#Smoking
Patient reported recently starting to smoke <5 cigarettes per 
day as an attempt to alleviate stress. He was counseled on the 
potential health consequences of using smoking to alleviate 
symptoms. He did not experience any symptoms of nicotine 
withdrawal but was discharged w/ a prescription for nicotine gum 
should those symptoms develop, which would be unlikely. He 
should f/u regarding this w/ his outpatient care team.
 
#Cannabis
Patient reported smoking cannabis on a few occasions recently as 
an attempt to alleviate stress. He was counseled on the 
potential health consequences of using smoking cannabis to 
alleviate symptoms. Of note, he denied that it was particularly 
effective. He should f/u regarding this w/ his outpatient care 
team.

#Alcohol misuse
Patient reported drinking wine on a few occasions (<1 bottle per 
week) recently as an attempt to alleviate stress. He was 
counseled on the potential health consequences of using alcohol 
to alleviate symptoms. Of note, he denied that it was 
particularly effective. He should f/u regarding this w/ his 
outpatient care team.

4. MEDICAL

#Hypertriglyceridemia
TGs were elevated to 1068 on ___. He has a known history of 
hypertriglyceridemia and was continued on his home fish oil 
supplement regimen of 1,000 mg BID. He should f/u w/ his 
outpatient treatment team regarding this.

#Decreased WBC
CBC notable for low WBC 2.6 on ___. A repeat from ___ was also 
low at 3.6. Of note, WBC often lower in Africans and patient is 
___. He also reports that he has been told in the past that 
his WBC is low. Reports HIV testing ___ year ago and denies any 
recent changes in sexual partners. He should f/u w/ his 
outpatient treatment team regarding this.

5. PSYCHOSOCIAL

#) GROUPS/MILIEU: 

The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills.
 

#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
Per Dr. ___ (___) Collateral note

___, ___ (___). Clinical nurse specialist
working on ___ team with patient.
.
Have been working with him for ___ year. Had not seen since 
___.
Patient had disappeared from care for a while, some no-shows.
.
Within the last few weeks, therapist had recently spoken to him,
patient stated that he wanted to terminate relationship with
therapist. He was minimally engaged in care, refusing to discuss
his problems ("I don't want to talk about it.") Abruptly left in
the middle of the session left ___ weeks ago. ___ team
reached out, tried to call patient to get him to come back, for 
a
while did not hear anything. 
.
Finally heard back from patient today, "I need to see you 
today."
Patient came in with complaints of "I feel like I can't 
function.
I am having racing thoughts. I can't go to work." Stated that he
was still taking Lexapro. Noted at that time two weeks ago that
he was having suicidal thoughts of wanting to hang himself. At
that time he resisted because some part of my brain was telling
me not to do it." However, no longer having that protective
thought, feeling hopeless like there is "no point anymore." When
asked "Do you feel like you need to be in the hospital" patient
stated "Yes."
.
In addition, patient has recently broken up with fiancée, 
feeling
like he doesn't deserve to be with her. Has increased use of 
EtOH
(no known hx of detox/withdrawl sx) and cannabis. No other known
use of drugs. 

Further hx: Has a trauma hx, emotional and possibly
physical/sexual. Religious, raised ___ in a ___ country
(source of some trauma). Notably, father is in ___ and very
sick, sister is being beaten by husband, patient feels powerless
to address either of these problems. 

No prior psych hosp. No prior suicide attempts (though has had 
SI
in the past.) 

Notably, patient has been complaining of dyspnea. ___ be related
to anxiety but unclear."
 

#) INTERVENTIONS

- Medications: continued his home escitalopram regimen

- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.

- Coordination of aftercare: follow up w/ psychiatric NP for 
medication management, follow up w/ partial hospital program for 
depression and coping skills

- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
encouraged coping skills

-Guardianships: N/A

RISK ASSESSMENT & PROGNOSIS

On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself based upon experiencing 
suicidal ideation. His static factors noted at that time include 
possible family history of suicide, history of trauma ___ 
physical abuse, social contact w/ recent completed suicide, 
single, male, and having a chronic mental illness. His 
modifiable risk factors included social isolation, recent 
relationship breakup, family illness and other family strain.  
He obtained emotional support regarding his psychosocial 
stresors on the unit.  His recent disengagement was addressed by 
establishing timely follow up for him while he continues process 
of identifying treaters who are closer to where he lives and 
works. He was encouraged to work on learning coping skills to 
help with his acute stressors instead of turning to substances 
or pornography. Finally, the patient is being discharged with 
many protective risk factors, no prior SIB or SA, no access to 
firearms, not hopeless, responsibility to family, housing, 
employment, and help seeking nature. Overall, the patient is not 
at an acutely elevated risk of self-harm nor danger to others 
due to acutely decompensated psychiatric illness.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 15 mg PO DAILY mood 
2. Fish Oil (Omega 3) 1000 mg PO BID 

 
Discharge Medications:
1.  Nicotine Polacrilex 2 mg PO Q2H:PRN nicotine withdrawal 
RX *nicotine (polacrilex) 2 mg 1 piece of gum Q2H:PRN Disp #*14 
Gum Refills:*0 
2.  Escitalopram Oxalate 15 mg PO DAILY mood  
3.  Fish Oil (Omega 3) 1000 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder, recurrent, severe
 
Discharge Condition:
Mental Status: Clear and coherent.
-Appearance: young ___ male, shaved, good grooming and
hygiene, slightly overweight
-Behavior/Attitude: cooperative, forthcoming, no psychomotor
retardation
-Mood: "Good"
-Affect: full, broad, euthymic, congruent
-Speech: normal rate, normal tone, normal tonal variation
-Thought process: linear, coherent
-Thought Content: hopeful, denies SI, does not appear to be
responding to internal stimuli
-Insight: fair
-Judgment: fair

Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___